US06479536B1
Methyl 4-[[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-ylamino]carbonyl]benzoate
By using 3-(4-isopropylphenyl)-2,2,4,6,7- pentamethyl-2,3-dihydro-1-benzofuran-5-amine and 4-methoxycarbonylbenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 92%. Melting point: 220-223° C. (Methanol)

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7- pentamethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N)C)(C)C | C22H29NO
reactant | 4-methoxycarbonylbenzoyl chloride | COC(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
solvent | Methanol | CO | CH4O
product | Methyl 4-[[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-ylamino]carbonyl]benzoate | Yield: 92% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NC(=O)C2=CC=C(C(=O)OC)C=C2)C)(C)C | C31H35NO4
